US06509329B1
Synthesis of 4-(3,4,5-Trimethoxyphenyl)pyridine-N-oxide
3,4,5-Trimethoxyphenylboronic acid (2.49 g) and 4-bromopyridine-N-oxide (2.25 g) were reacted in the same manner as in Preparation Example 1 to obtain the title compound.

reactant | 3,4,5-Trimethoxyphenylboronic acid | 2.49 g | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | 4-bromopyridine-N-oxide | 2.25 g | BrC1=CC=[N+](C=C1)[O-] | C5H4BrNO
product | 4-(3,4,5-Trimethoxyphenyl)pyridine-N-oxide | COC=1C=C(C=C(C1OC)OC)C1=CC=[N+](C=C1)[O-] | C14H15NO4
